US06951879B2
In analogy to example 3.1, 6-(4-Bromo-butoxy)-3-(4-bromo-phenyl)-benzo[d]isothiazole and Ethylamine were converted to yield {4-[3-(4-Bromo-phenyl)-benzo[d]isothiazol-6-yloxy]-butyl}-ethyl-amine as white solid, MS: 405 (MH+, 1Br).

reactant | 6-(4-Bromo-butoxy)-3-(4-bromo-phenyl)-benzo[d]isothiazole | BrCCCCOC1=CC2=C(C(=NS2)C2=CC=C(C=C2)Br)C=C1 | C17H15Br2NOS
reactant | Ethylamine | C(C)N | C2H7N
product | {4-[3-(4-Bromo-phenyl)-benzo[d]isothiazol-6-yloxy]-butyl}-ethyl-amine | BrC1=CC=C(C=C1)C1=NSC2=C1C=CC(=C2)OCCCCNCC | C19H21BrN2OS
